US09289512B2
FMoc-4-aminophenyl acetic acid 10a (n=1):
4-aminophenyl acetic acid (204 mg, 1.35 mmol) in a 10 mL flask was dissolved in a mixture of 10% aqueous sodium bicarbonate (0.29 mL) and tetrahydrofuran (2.3 mL) then cooled in an ice/water bath. 9-fluorenylmethyl chloroformate (367 mg, 1.42 mmol) was added in small portions over 3 min. After 4 h the cooling bath was removed. After additional 4 h at room temperature, the reaction was extracted with deionized water (2 mL) and ethyl ether (2 mL) and the aqueous layer was brought to pH 4 with dilute HCl and placed in a refrigerator. After 1 h solid was collected by vacuum filtration and washed with deionized water then dried under vacuum to give 284 mg of product (56% yield). Mass spectrum (M+Na)+ calcd for C23H19NO4, 396.1. found, 396.1.

reactant | 4-aminophenyl acetic acid | 1.35 mmol, 204 mg | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | 9-fluorenylmethyl chloroformate | 1.42 mmol, 367 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | sodium bicarbonate | 0.29 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
product | FMoc-4-aminophenyl acetic acid | 284 mg, 56% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C(=O)O)C1=CC=C(C=C1)N | C23H19NO4
